US06498251B1
Synthesis Example 8c 2a-(4-Bromobutyl)-1-methyl-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
1-Methyl-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (3.7 g, 20 mmol) was dissolved in anhydrous N,N-dimethylformamide (50 ml), and the solution was mixed with sodium hydride (60%, 800 mg, 20 mmol) and stirred at room temperature for 30 minutes. The reaction solution was cooled to −10° C. and mixed with 1,4-dibromobutane (7.0 ml) to carry out 1 hour of the reaction while increasing temperature of the reaction solution to room temperature. The reaction solution was mixed with diisopropyl ether and water to extract the reaction product, the resulting organic layer was washed three times with water and dried with anhydrous sodium sulfate, the solvent was removed by evaporation under a reduced pressure, and then the thus obtained material was separated and purified by a silica gel column chromatography to obtain 4.8 g (15 mmol, 75% in yield) of the title compound.

reactant | 1-Methyl-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 20 mmol, 3.7 g | CN1C(C2C=3C(=CC=CC13)CCC2)=O | C12H13NO
reactant | sodium hydride | 20 mmol, 800 mg | [H-].[Na+]
reactant | 1,4-dibromobutane | 7.0 ml | BrCCCCBr | C4H8Br2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2a-(4-Bromobutyl)-1-methyl-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | BrCCCCC12C(N(C=3C=CC=C(C13)CCC2)C)=O | C16H20BrNO
